US04844835
To an aqueous solution of 55 m moles(7.6 g) of 4-hydroxybenzoic acid and 65 m moles(2.6 g) of sodium hydroxide in 200 ml of water, 65 m moles(10.6 g) of carbobenzoxychloride was added dropwise at 0° C. After 24 hours, the precipitate was washed with water, filtered, and dried, then purified by column chromatography to obtain 15.0 g of 4-carbobenzoxyoxybenzoic acid [m.p. 181.9°-183.1° C⟧ (yield: 99%)

reactant | 4-hydroxybenzoic acid | 7.6 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | sodium hydroxide | 2.6 g | [OH-].[Na+]
reactant | carbobenzoxychloride | 10.6 g | C(=O)(OCC1=CC=CC=C1)Cl | C8H7ClO2
solvent | water | 200 ml | O | H2O
product | 4-carbobenzoxyoxybenzoic acid | 15.0 g, yield: 99% | C(=O)(OCC1=CC=CC=C1)OC1=CC=C(C(=O)O)C=C1 | C15H12O5
